US06046214
Methyl 1,2,5,6-tetrahydropyridine-3-carboxylate (20.44 g, 145 mmol) and triethylamine (25 ml, 180 mmol) were dissolved in methanol (250 ml) and di-tert-butyl dicarbonate (65.48 g, 300 mmol) was added at room temperature. The mixture was heated at 60 ° C. for 30 min., evaporated to dryness and partitioned between water and ethyl acetate. The organic layer was isolated, dried over magnesium sulphate and evaporated to dryness in vacuo. Purification on silicagel (Eluent: methylene chloride/methanol (19/1)) gave methyl 1-tert-butoxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate as a yellow oil.(Yield: 34.9 g, 99%) 13C-NMR (CDCl3) in ppm: δ166.20, 155.14, 138.30, 128.5, 80.37, 52.07, 42.96, 28.81, 25.91. 1H-NMR (CDCl3) in ppm: δ7.08 (1H,m), 4.10 (2H,m), 3.75 (3H,s), 3.48 (2H,t), 2.32 (2H,m)1.48 (9H,s).

reactant | Methyl 1,2,5,6-tetrahydropyridine-3-carboxylate | 145 mmol, 20.44 g | N1CC(=CCC1)C(=O)OC | C7H11NO2
reactant | triethylamine | 180 mmol, 25 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 300 mmol, 65.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 250 ml | CO | CH4O
product | methyl 1-tert-butoxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate | C(C)(C)(C)OC(=O)N1CC(=CCC1)C(=O)OC | C12H19NO4
